US08685981B2
Cis-4-{2-[(4-methoxytetrahydrofuran-3-yl)oxy]ethoxy}piperidine
Using benzyl 4-(2-{[(4-methylphenyl)sulfony]oxy}ethoxy)piperidine-1-carboxylate (2.50 g, 5.77 mmol) produced in Reference Example 1 (1c) and 4-methoxytetrahydrofuran-3-ol (820 mg, 6.94 mmol), the desired title compound (1.20 g, yield 85%) was obtained by the same method as in Reference Examples 1 (1d) and 1 (1e).

reactant | benzyl 4-(2-{[(4-methylphenyl)sulfony]oxy}ethoxy)piperidine-1-carboxylate | 5.77 mmol, 2.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCCOC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C22H27NO6S
reactant | 4-methoxytetrahydrofuran-3-ol | 6.94 mmol, 820 mg | COC1C(COC1)O | C5H10O3
product | Cis-4-{2-[(4-methoxytetrahydrofuran-3-yl)oxy]ethoxy}piperidine | 1.20 g, yield 85% | CO[C@@H]1[C@@H](COC1)OCCOC1CCNCC1 | C12H23NO4
